US05340831
Preparation of 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-sulphamoylphenethyl)pyrrolidine
A mixture containing 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine (0.3 g--see Preparation 8), 4-sulphamoylphenethyl chloride (0.23 g--see J. Pharm. Pharmacol., 16, 541, (1964)), sodium bicarbonate (0.4 g) and acetonitrile (10 ml) was heated under reflux for 2 hours. A further portion of sodium bicarbonate (1 g) was added followed by potassium iodide (0.2 g) and the mixture was heated under reflux for 2 hours. On cooling to room temperature, water (60 ml) was added and the mixture was extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (MgSO4) and concentrated in vacuo to give a glass which was purified by column chromatography on silica eluting with dichloromethane containing methanol (0% up to 10%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a colourless foam, yield, 0.11 g.

reactant | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)pyrrolidine | 0.3 g | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CNCC1 | C18H20N2O
reactant | 4-sulphamoylphenethyl chloride | 0.23 g | S(N)(=O)(=O)C1=CC=C(CCCl)C=C1 | C8H10ClNO2S
reactant | sodium bicarbonate | 0.4 g | C([O-])(O)=O.[Na+]
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 0.2 g | [I-].[K+]
solvent | water | 60 ml | O | H2O
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-(R,S)-(1-carbamoyl-1,1-diphenylmethyl)-1-(4-sulphamoylphenethyl)pyrrolidine | C(N)(=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1CN(CC1)CCC1=CC=C(C=C1)S(N)(=O)=O | C26H29N3O3S
